US05959107
To an aqueous 4N hydrochloric acid solution 24 ml of 5-aminoisoquinoline 1.00 g (6.9 mmol), a water solution 2 ml of sodium azide 480 mg (6.9 mmol) was added dropwise. The reaction mixture was stirred at 0° C. for 30 minutes and neutralized with sodium acetate, and insoluble materials were filtered. The filtrate was added to a sodium hydroxide solution (300 mg/3 ml) of 5-isoquinolinethiol 1.23 g (7.6 mmol), and the mixture was stirred for 1.5 hours at 80° C. After adding ethyl acetate, the reaction solution was washed with 1N sodium hydroxide and saturated sodium chloride, and dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure, the resulting residue was purified by silica gel column chromatography (ethyl acetate), and 5-(5-isoquinolylsulfanyl)isoquinoline 230 mg (11.5%) was obtained.

reactant | hydrochloric acid | 4N, 24 ml | Cl | ClH
reactant | 5-aminoisoquinoline | 6.9 mmol, 1.00 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | sodium azide | 6.9 mmol, 480 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | 3 ml, 300 mg | [OH-].[Na+]
reactant | 5-isoquinolinethiol | 7.6 mmol, 1.23 g | C1=NC=CC=2C(=CC=CC12)S | C9H7NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 2 ml | O | H2O
product | 5-(5-isoquinolylsulfanyl)isoquinoline | 230 mg, 11.5% | C1=NC=CC2=C(C=CC=C12)SC1=C2C=CN=CC2=CC=C1 | C18H12N2S
